US07439257B2
7.4. 2-amino-2-oxoethyl 4-[(1-naphthalenyl-oxy)methyl]-1-piperidinecarboxylate
1.0 g (2.69 mmol) of 2-(ethyloxy)-2-oxoethyl 4-[(1-naphthalenyloxy)methyl]-1-piperidinecarboxylate, prepared in Step 7.3., is dissolved in 12 ml of a 7N solution of ammonia (84 mmol) in methanol. The solution is left to react at ambient temperature for 3 days. It is evaporated to dryness and the residue is purified by chromatography on silica gel, eluting with a 90/10 then 80/20, 70/30 and 50/50 mixture of dichloromethane and ethyl acetate and then with a 95/5 mixture of ethyl acetate and methanol. The eluate is subsequently recrystallized from ethyl acetate, to give 0.77 g of product.

reactant | 2-(ethyloxy)-2-oxoethyl 4-[(1-naphthalenyloxy)methyl]-1-piperidinecarboxylate | 2.69 mmol, 1.0 g | C1(=CC=CC2=CC=CC=C12)OCC1CCN(CC1)C(=O)OCC(=O)OCC | C21H25NO5
reactant | ammonia | 84 mmol | N | H3N
solvent | methanol | CO | CH4O
product | 2-amino-2-oxoethyl 4-[(1-naphthalenyl-oxy)methyl]-1-piperidinecarboxylate | 0.77 g | C1(=CC=CC2=CC=CC=C12)OCC1CCN(CC1)C(=O)OCC(=O)N | C19H22N2O4
